US09062032B2
To a mixture of 5.27 g of benzyl 5-methylthiophene-2-carboxylate and 100 mL of carbon tetrachloride were added 4.18 g of N-bromosuccinimide (NBS) and 142 mg of azobisisobutyronitrile (AIBN), followed by stirring overnight at 80° C. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:3), thereby obtaining 4.44 g of benzyl 5-(bromomethyl)thiophene-2-carboxylate.

reactant | benzyl 5-methylthiophene-2-carboxylate | 5.27 g | CC1=CC=C(S1)C(=O)OCC1=CC=CC=C1 | C13H12O2S
reactant | N-bromosuccinimide | 4.18 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | azobisisobutyronitrile | 142 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | benzyl 5-(bromomethyl)thiophene-2-carboxylate | 4.44 g | BrCC1=CC=C(S1)C(=O)OCC1=CC=CC=C1 | C13H11BrO2S
